US04188325
A solution of 5-chloro-3-methylthiooxindole (1.35 g, 6.3 mmol) and N-chlorosuccinimide (950 mg, 7 mmol) in carbon tetrachloride (100 ml) was refluxed for 1 hour, cooled, and the precipitate was removed by filtration. The filtrate was concentrated to dryness, yielding crude 3,5-dichloro-3-methylthiooxindole. The residue was dissolved in 25 ml of tetrahydrofuran and added rapidly to a vigorously stirred slurry of red mercuric oxide (1.37 g, 6.3 mmol) and boron trifluoride etherate (900 mg, 6.3 mmol) in 100 ml of 20 percent aqueous tetrahydrofuran. After stirring for 3 hours, the solution was filtered through a pad of Celite and the filtrate was extracted with chloroform. The chloroform extracts were dried over anhydrous magnesium sulfate, filtered and the filtrates were concentrated to give a red solid which was chromatographed on silica gel with chloroform as the eluent. There was obtained 5-chloroisatin (850 mg, 75%), mp 248°-251° (recrystallized from ethanol).

reactant | 5-chloro-3-methylthiooxindole | 6.3 mmol, 1.35 g | ClC=1C=C2C(C(NC2=CC1)=S)C | C9H8ClNS
reactant | N-chlorosuccinimide | 7 mmol, 950 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3,5-dichloro-3-methylthiooxindole | ClC1(C(NC2=CC=C(C=C12)Cl)=S)C | C9H7Cl2NS
